*** Open Loop Signal Generator Floating Ammeter Capacitor Connected ***
XU1 5 6 11 7 999 3 7 4 3 3 4 999 999 999 7 8 CA3083
RB 1 3 1k
C1 5 6 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 0 1k
R8 11 0 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
R6 13 0 1k
R2 15 16 1k
R1 16 0 1k
R9 999 999 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 0 SINE(0 40m 10k)
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 1 0 0 1 1 1 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
.control
tran 20u 20m
run
print v(15)
dc V1 10 10 0.1
dc V2 10 10 0.1
run
print v(1) v(2) v(3) v(4) v(5) v(6) v(7) V(8) v(9) V(1,2)/1m V(1,5)/1m V(1,6)/1m
.endc
*** Closed Loop Signal Generator Floating Ammeter Capacitor Connected ***
XU1 5 6 11 7 999 3 7 4 3 3 4 999 999 999 7 8 CA3083
RB 1 3 1k
C1 5 6 30p
RC1 1 5 2k
RC2 1 6 3k
R7 11 0 1k
R8 11 0 1k 
R10 10 8 1k
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
R6 13 0 1k
R2 15 16 1k
R1 16 0 1k
R9 11 999 1k
V1 1 0 dc 1
V2 0 4 dc 1
V3 8 0 SINE(0 40m 10k)
RAmmeter1 1 2 1m
* DIGOUTPUT0_POST = 1 1 0 1 1 0 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
.control
tran 20u 20m
run
print v(15)
dc V1 10 10 0.1
dc V2 10 10 0.1
run
print v(1) v(2) v(3) v(4) v(5) v(6) v(7) V(8) v(9) V(1,2)/1m V(1,5)/1m V(1,6)/1m
.endc